US07179912B2
2-Hydroxy-1-(2-hydroxy-4-morpholin-4-yl-phenyl)-ethanone
3-Chloroperoxybenzoic acid (1.48 g, 6.0 mmol) was slurried in hexanes (40 mL) and cooled to −78° C. A solution of 4-(3-trimethylsilanyloxy-4-(1-trimethylsilanyloxy-vinyl)-phenyl]-morpholine (1.10 g, 3.01 mmol) dissolved in hexanes (5 mL) was added slowly. The resulting suspension was maintained at −78° C. for 60 minutes then slowly warmed to 22° C. After stirring at 22° C. for 16 hours, the reaction mixture was diluted with methanol and concentrated in vacuo. The residue was redissolved in methanol and concentrated two additional times. The solids were resuspended in EtOAc and washed 2 times with saturated NaHCO3, and once with saturated NaCl then dried over Na2SO4. After concentration, the residue was chromatographed on SiO2 using 2:1 hexane/EtOAc then 1:1 hexane/EtOAc. After concentration, the alcohol was recrystallized from EtOAc. (19% yield).

reactant | 3-Chloroperoxybenzoic acid | 6.0 mmol, 1.48 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | 4-(3-trimethylsilanyloxy-4-(1-trimethylsilanyloxy-vinyl)-phenyl]-morpholine | 3.01 mmol, 1.10 g | C[Si](OC=1C=C(C=CC1C(=C)O[Si](C)(C)C)N1CCOCC1)(C)C | C18H31NO3Si2
solvent | methanol | CO | CH4O
product | 2-Hydroxy-1-(2-hydroxy-4-morpholin-4-yl-phenyl)-ethanone | OCC(=O)C1=C(C=C(C=C1)N1CCOCC1)O | C12H15NO4
